US04333877
A mixture of 1.6 parts of 3-amino-2-naphthol, 5.46 parts of 4-methoxymandelic acid and 25 parts of 1,2-dichlorobenzene is heated under reflux for 20 hours when 2.5 parts of nitrobenzene are added and heating is continued for a further 11/2 hours. After cooling, the mixture is diluted with 50 parts of ethanol. The highly crystalline product is isolated by filtration to give 1,6-di(4-methoxyphenyl)-4,5-dihydro-2H-3-oxa-4-azabenz-[e]-as-indacene having m.p. 340° C. The dyestuff dissolves in chloroform to give an orange solution having λmax 464 nm, εmax 35,000. When applied to aromatic polyester textile materials from aqueous dispersion by batchwise dyeing orange shades are obtained.

reactant | 3-amino-2-naphthol | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
reactant | 4-methoxymandelic acid | COC1=CC=C(C(C(=O)O)O)C=C1 | C9H10O4
reactant | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | ethanol | C(C)O | C2H6O
product | 1,6-di(4-methoxyphenyl)-4,5-dihydro-2H-3-oxa-4-azabenz-[e]-as-indacene | COC1=CC=C(C=C1)C=1COC2=C3NCC(=C3C3=C(C12)C=CC=C3)C3=CC=C(C=C3)OC | C28H23NO3
